US06800629B2
In 140 mL of 70% solution of hydrogen fluoride in pyridine was dissolved 17.3 g of methyl 6-amino-3-methoxy-2-pyrazinecarboxylate at an ice-cooled temperature. Then, 7.8 g of sodium nitrite was added at −50° C. in three portions. After the foaming had ceased, the temperature was slowly elevated, and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was poured into a mixture of 300 mL of ice and 200 mL of chloroform, the deposited insoluble matter was filtered off, and then the organic layer was separated. The remaining aqueous layer was extracted with ten portions of chloroform, provided that the total quantity of liquid came to 500 mL. The organic layers thus obtained were united, pH was adjusted to 7 with a saturated aqueous solution of sodium hydrogen carbonate, and the organic layer was separated. The organic layer thus obtained was washed with saturated aqueous solution of sodium chloride and dried on anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue thus obtained was purified by silica gel chromatography [eluent: n-hexane:ethyl acetate=4:1] to obtain 14.3 g of methyl 6-fluoro-3-methoxy-2-pyrazinecarboxylate as a solid product.

reactant | methyl 6-amino-3-methoxy-2-pyrazinecarboxylate | 17.3 g | NC1=CN=C(C(=N1)C(=O)OC)OC | C7H9N3O3
reactant | sodium nitrite | 7.8 g | N(=O)[O-].[Na+]
reactant | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | hydrogen fluoride | F | FH
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | methyl 6-fluoro-3-methoxy-2-pyrazinecarboxylate | 14.3 g | FC1=CN=C(C(=N1)C(=O)OC)OC | C7H7FN2O3
